US03962378
2-hydroxyethyl-methyl-phosphinic acid-n-octyl ester
100 g of 2-acetoxyethyl-methyl phosphinic acid n-octyl ester are heated to 65°-70°C in 200 ml of methanol containing 0.5 wt.% of HCl, while simultaneously removing by distillation a mixture of methyl acetate/methanol. After distillation under reduced pressure 70 g of 2-hydroxyethyl-methyl-phosphinic acid-n-octyl ester (b.p. 139°C/0.2 torr) are obtained, corresponding to a yield of 82.5% of the theoretical.

reactant | 2-acetoxyethyl-methyl phosphinic acid n-octyl ester | 100 g | C(CCCCCCC)OP(=O)(C)CCOC(C)=O | C13H27O4P
reactant | HCl | Cl | ClH
solvent | methanol | 200 ml | CO | CH4O
product | 2-hydroxyethyl-methyl-phosphinic acid-n-octyl ester | yield of 82.5% | C(CCCCCCC)OP(=O)(C)CCO | C11H25O3P
